US09193695B2
3-(Methylsulfonyl)benzoyl chloride
DMF (0.4 mL) and oxalyl chloride (1.90 g) were added to a solution of 3-(methylsulfonyl)benzoic acid (2.00 g) in CHCl3 (including amylene, 40 mL) in a nitrogen gas flow under ice cooling, followed by stirring at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure to yield a crude product as a yellow solid, which was used in the subsequent reaction.

reactant | DMF | 0.4 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 1.90 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(methylsulfonyl)benzoic acid | 2.00 g | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H8O4S
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(Methylsulfonyl)benzoyl chloride | CS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C8H7ClO3S
